US20010007873A1
D. 2-(2-Cyclopropyl-4-benzyloxy-phenyl)-6-(2, 5-dimethyl-pyrrol-1-yl)-pyridine
Prepared as in Example 1E using 2-cyclopropyl4-benzyloxy-benzeneboronic acid with 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine, in 50% yield.

reactant | 2-cyclopropyl4-benzyloxy-benzeneboronic acid | C1(CC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)B(O)O | C16H17BO3
reactant | 2-bromo-6-(2,5-dimethyl-pyrrol-1-yl)-pyridine | BrC1=NC(=CC=C1)N1C(=CC=C1C)C | C11H11BrN2
product | 2-(2-Cyclopropyl-4-benzyloxy-phenyl)-6-(2, 5-dimethyl-pyrrol-1-yl)-pyridine | 50% yield | C1(CC1)C1=C(C=CC(=C1)OCC1=CC=CC=C1)C1=NC(=CC=C1)N1C(=CC=C1C)C | C27H26N2O
